US07919628B2
At 0° C. to 115 mg 1-[6-(2,2,2-trifluoro-ethoxy)-pyridin-3-ylmethoxy]-naphthalene-2-carboxylic acid in 2 mL of abs. DMF 82 mg EDC, 45 mg 1-hydroxybenzotriazole and 49 mg N,N-diisopropylethylamine were added. After 30 min at 0° C. 56 mg of 2,2-dimethylglycine methyl ester hydrochloride and 49 mg N,N-diisopropylethylamine were added. The mixture was stirred for 16 h at room temperature. The mixture was poured into cold water, acidified to pH 3 with 2M HCl, extracted with ethyl acetate, washed with sat. sodium hydrogen carbonate solution and brine, dried over magnesium sulphate, filtrated and concentrated in vacuo to provide 124 mg of 2-methyl-2-({1-[6-(2,2,2-trifluoro-ethoxy)-pyridin-3-ylmethoxy]-naphthalene-2-carbonyl}-amino)-propionic acid methyl ester.

reactant | 1-[6-(2,2,2-trifluoro-ethoxy)-pyridin-3-ylmethoxy]-naphthalene-2-carboxylic acid | FC(COC1=CC=C(C=N1)COC1=C(C=CC2=CC=CC=C12)C(=O)O)(F)F | C19H14F3NO4
reactant | 1-hydroxybenzotriazole | 45 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 49 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,2-dimethylglycine methyl ester hydrochloride | 56 mg | Cl.COC(C(N)(C)C)=O
reactant | N,N-diisopropylethylamine | 49 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 2M | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 82 mg | CN(C)C=O | C3H7NO
product | 2-methyl-2-({1-[6-(2,2,2-trifluoro-ethoxy)-pyridin-3-ylmethoxy]-naphthalene-2-carbonyl}-amino)-propionic acid methyl ester | 124 mg | COC(C(C)(NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=CC1)OCC(F)(F)F)C)=O | C24H23F3N2O5
